US05455252
8-(3-Chlorophenyl)-6-quinolincarbaldehyde (0.8 g) was dissolved in 20 mL of tetrahydrofuran and cooled to -78° C. Methyllithium (4.5 mL, 1.4M) in diethyl ether was added dropwise to the solution over 5 minutes, stirred for 20 minutes, poured into 50 mL of saturated ammonium chloride, and stirred for 5 minutes. The solution was extracted with ethyl acetate (2×75 mL). The extracts were combined and dried over MgSO4, and concentrated. The residue was chromatographed on silica gel (30:70 ethyl acetate:hexanes) to obtain 0.72 g of 8-(3-chlorophenyl)-6-(1-hydroxyethyl)quinoline as a yellow oil.

reactant | 8-(3-Chlorophenyl)-6-quinolincarbaldehyde | 0.8 g | ClC=1C=C(C=CC1)C=1C=C(C=C2C=CC=NC12)C=O | C16H10ClNO
reactant | Methyllithium | 1.4M, 4.5 mL | C[Li]
reactant | ammonium chloride | 50 mL | [Cl-].[NH4+]
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 8-(3-chlorophenyl)-6-(1-hydroxyethyl)quinoline | 0.72 g | ClC=1C=C(C=CC1)C=1C=C(C=C2C=CC=NC12)C(C)O | C17H14ClNO
